US07094790B2
4-{2-[2-(2-(R)-Methyl-pyrrolidin-1-yl)-ethyl]-1H-indol-5-yl}-benzonitrile
A reaction flask was charged with Cs2CO3 (1.14 g, 3.5 mmol), CsF (0.38 g, 2.5 mmol), 4-cyanophenylboronic acid (425 mg, 2.5 mmol), and H2O (10 mL) followed by a toluene solution (10 mL) of 5-bromo-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-1H-indole (307 mg, 1.0 mmol). The resulting mixture was purged with nitrogen. To the reaction mixture was then added 2-dicyclohexylphosphino(biphenyl) (35 mg, 0.1 mmol) and Pd2(dba)3 (46 mg, 0.05 mmol). The resulting reaction mixture was then heated to 65° C. overnight under nitrogen after which HPLC indicated that all the 5-bromo-2-[2-(-(R)-methyl-pyrrolidin-1-yl-ethyl]-1H-indole was consumed. The reaction mixture was cooled to room temperature and IPAc (20 mL) was added. The organic layer was separated and concentrated. The residue was purified by column chromatography eluting with heptane/acetone/CH2Cl2/Et3N (600 mL/40 mL/5 mL/2 mL). The fractions containing product were combined and concentrated under reduced pressure to provide the title compound as a semi-solid (148 mg). 1H NMR (400 MHz, CDCl3) δ 10.22 (s, 1H), 7.65–7.74 (m, 5H), 7.40 (d, J=8.5 Hz, 1H), 7.33 (dd, J=1.8, 8.5 Hz, 1H), 6.27 (s, 1H), 3.37–3.42 (m, 1H), 3.21–3.25 (m, 1H), 3.01–3.16 (m, 2H), 2.54–2.62 (m, 2H), 2.33 (q, J=8.78Hz, 1H), 2.04–2.08 (m, 1H), 1.80–1.93 (m, 2H), 1.56–1.63 (m, 1H), 1.21 (d, J=6.2 Hz, 3H). 13C NMR (400 MHz, CDCl3) δ 146.99, 139.96, 135.61, 132.05, 130.30, 128.74, 127.32, 120.02, 119.13, 118.36, 111.13, 109.16, 99.49, 61.25, 53.68, 53.57, 32.92, 26.21, 22.14, 18.98. [M+H]+ at m/z 330.

reactant | Cs2CO3 | 3.5 mmol, 1.14 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CsF | 2.5 mmol, 0.38 g | [F-].[Cs+]
reactant | 4-cyanophenylboronic acid | 2.5 mmol, 425 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 5-bromo-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-1H-indole | 1.0 mmol, 307 mg | BrC=1C=C2C=C(NC2=CC1)CCN1[C@@H](CCC1)C | C15H19BrN2
reactant | 2-dicyclohexylphosphino(biphenyl) | 0.1 mmol, 35 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
catalyst | Pd2(dba)3 | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 10 mL | O | H2O
product | 4-{2-[2-(2-(R)-Methyl-pyrrolidin-1-yl)-ethyl]-1H-indol-5-yl}-benzonitrile | 148 mg | C[C@H]1N(CCC1)CCC=1NC2=CC=C(C=C2C1)C1=CC=C(C#N)C=C1 | C22H23N3
